US07326791B2
4-{(2R)-2-[(N-acetyl-N-methylamino)methyl]pyrrolidin-1-ylcarbonyl}-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chlorobenzamide
Prepared analogously to Example 1g from (1S)-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid, TBTU, diisopropylethylamine, and (R)-2-[(N-acetyl-N-methylamino)methyl]pyrrolidine in tetrahydrofuran. Yield: 17%; Rf value: 0.40 (silica gel: dichloromethane/ethanol=9:1); C25H27Cl2N5O3 (516.426); mass spectrum: (M+H)+=516/518/520 (chlorine isotope).

reactant | (1S)-2-chloro-4-{N-[1-(5-chloro-1H-benzimidazol-2-yl)ethyl]aminocarbonyl}benzoic acid | ClC1=C(C(=O)O)C=CC(=C1)C(=O)N[C@@H](C)C1=NC2=C(N1)C=CC(=C2)Cl | C17H13Cl2N3O3
reactant | TBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (R)-2-[(N-acetyl-N-methylamino)methyl]pyrrolidine | C(C)(=O)N(C)C[C@@H]1NCCC1 | C8H16N2O
reactant | chlorine | ClCl | Cl2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane ethanol | ClCCl.C(C)O
product | 4-{(2R)-2-[(N-acetyl-N-methylamino)methyl]pyrrolidin-1-ylcarbonyl}-N-[(1S)-1-(5-chloro-1H-benzimidazol-2-yl)ethyl]-3-chlorobenzamide | Yield: 17% | C(C)(=O)N(C)C[C@@H]1N(CCC1)C(=O)C1=C(C=C(C(=O)N[C@@H](C)C2=NC3=C(N2)C=CC(=C3)Cl)C=C1)Cl | C25H27Cl2N5O3
